US07119088B2
2-Amino-5-trifluoromethoxy-benzoic acid
5-Trifluoromethoxy-1H-indole-2,3-dione (3.48 g, 15.0 mmol) was dissolved in 2N aqueous sodium hydroxide (90 ml) and cooled to 17° C. before adding 30% aqueous hydrogen peroxide solution (2.75 ml, 27 mmol) dropwise over 20 minutes. The mixture was stirred at room temperature for 1 hour before adding concentrated hydrochloric acid (7 ml). The resulting brown precipitate was filtered off and dried in vacuo at 50° C. for 66 hours to give the title compound (1.83 g) as a brown solid.

reactant | 5-Trifluoromethoxy-1H-indole-2,3-dione | 15.0 mmol, 3.48 g | FC(OC=1C=C2C(C(NC2=CC1)=O)=O)(F)F | C9H4F3NO3
reactant | hydrogen peroxide | 27 mmol, 2.75 ml | OO | H2O2
reactant | hydrochloric acid | 7 ml | Cl | ClH
solvent | sodium hydroxide | 2N, 90 ml | [OH-].[Na+]
product | 2-Amino-5-trifluoromethoxy-benzoic acid | 1.83 g | NC1=C(C(=O)O)C=C(C=C1)OC(F)(F)F | C8H6F3NO3
